US04803215
1.2 ml (0.0078 mole) of 1,1,3,3-tetramethoxypropane and 0.2 ml (0.0034 mole) of 96 percent strength sulphuric acid are added in sequence to 3 g (0.0068 mole) of 5-hydrazino-4-(trifluoromethylsulphonyl)-1-(2,6-dichloro-4-trifluoromethyl-phenyl)-pyrazole in 7 ml of ethanol at 20° C. to 25° C. The reaction mixture is heated at the reflux temperature for 2 hours, cooled, and neutralized with 0.36 g (0.0034 mole) of sodium carbonate, and the solvent is removed in vacuo. The residue is suspended in water, filtered, washed again with water and dried. 2.5 g (77% of theory) of 1-(2,6-dichloro-4-trifluoromethyl-phenyl)-5-(pyrazol-1-yl)-4-trifluoromethylsulphonyl-pyrazole of melting point 127° C. to 133° C. are obtained.

reactant | 1,1,3,3-tetramethoxypropane | 0.0078 mole, 1.2 ml | COC(CC(OC)OC)OC | C7H16O4
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 5-hydrazino-4-(trifluoromethylsulphonyl)-1-(2,6-dichloro-4-trifluoromethyl-phenyl)-pyrazole | 0.0068 mole, 3 g | N(N)C1=C(C=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)S(=O)(=O)C(F)(F)F | C11H6Cl2F6N4O2S
reactant | sodium carbonate | 0.0034 mole, 0.36 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | 1-(2,6-dichloro-4-trifluoromethyl-phenyl)-5-(pyrazol-1-yl)-4-trifluoromethylsulphonyl-pyrazole | 2.5 g, 77% | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC(=C1N1N=CC=C1)S(=O)(=O)C(F)(F)F | C14H6Cl2F6N4O2S
